US07932272B2
5-Amino-thieno[3,2-b]pyridine-6-carbonitrile
(2-Formyl-thiophen-3-yl)-carbamic acid tert-butyl ester described in Preparation Example U-2 (500 mg, 2.20 mmol) and malononitrile (153 mg, 2.31 mmol) were dissolved in a solution of ethanol (10 mL) to which piperidine (catalytic amount) had been added, and the mixture was stirred for 1 hour under reflux. The reaction mixture was cooled to room temperature, the precipitated solid was filtered, and title compound (215 mg, 1.23 mmol, 56%) was obtained as a white solid.

reactant | (2-Formyl-thiophen-3-yl)-carbamic acid tert-butyl ester | C(C)(C)(C)OC(NC1=C(SC=C1)C=O)=O | C10H13NO3S
reactant | malononitrile | 2.31 mmol, 153 mg | C(CC#N)#N | C3H2N2
solvent | ethanol | 10 mL | C(C)O | C2H6O
solvent | piperidine | N1CCCCC1 | C5H11N
product | 5-Amino-thieno[3,2-b]pyridine-6-carbonitrile | 1.23 mmol, 215 mg, 56% | NC1=C(C=C2C(=N1)C=CS2)C#N | C8H5N3S
